US04105767
Reaction of 2-amino-5-(2-pyridyloxy) pyridine with methyl chloroacetylcarbamate as in Example 3 yields 2-(methoxycarbonylamino)-6-(2-pyridyloxy) imidazo [1,2-a] pyridine.

reactant | 2-amino-5-(2-pyridyloxy) pyridine | NC1=NC=C(C=C1)OC1=NC=CC=C1 | C10H9N3O
reactant | methyl chloroacetylcarbamate | ClCC(=O)NC(OC)=O | C4H6ClNO3
product | 2-(methoxycarbonylamino)-6-(2-pyridyloxy) imidazo [1,2-a] pyridine | COC(=O)NC=1N=C2N(C=C(C=C2)OC2=NC=CC=C2)C1 | C14H12N4O3
